US06093732
N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-[3-(methylthio)-1-propynyl]-3-quinolinecarboxamide
A mixture of N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide from Example No. 5 (1.57 g), propargyl methyl sulfide (0.355 g, 4.12 mmol), copper iodide (0.125 g), and dichlorobis(triphenylphosphine)palladium (II) (0.462 g) in diethylamine (38 mL) are stirred at room temperature overnight. An additional 0.092 g of propargyl methyl sulfide is added, and the mixture is stirred another 5 h. The reaction mixture was then concentrated in vacuo, and the residue is suspended in water (100 mL) and extracted with three portions of EtOAc. The combined organic layers are then dried over MgSO4, filtered, and concentrated in vacuo. Column chromatography (elution with 5-10%MeOH/CH2Cl2) yielded the title compound as a solid.

reactant | N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)I)F | C17H11ClFIN2O2
reactant | propargyl methyl sulfide | 4.12 mmol, 0.355 g | CSCC#C | C4H6S
reactant | propargyl methyl sulfide | 0.092 g | CSCC#C | C4H6S
solvent | diethylamine | 38 mL | C(C)NCC | C4H11N
catalyst | copper iodide | 0.125 g | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.462 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-[3-(methylthio)-1-propynyl]-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)C#CCSC)F | C21H16ClFN2O2S
